US06949579B2
(2Z) 4-[(5-bromo-1H-indazol-3-yl)amino]-4-oxo-2-butenoic acid
350 mg of maleic anhydride are added to 500 mg of 5-bromo-1H-indazole-3-amine, prepared as described in U.S. Pat. No. 3,133,081, in 20 cm3 of toluene. The medium is refluxed at about 110° C. for one hour. The heating is then stopped and the mixture is stirred at about 19° C. for 12 hours. The precipitate formed is filtered off on a sinter funnel and rinsed with 20 cm3 of diisopropyl ether, 2 cm3 of ethyl acetate and 2 cm3 of dichloromethane. After drying (90 Pa; 45° C.), 448 mg of 4-[(5-bromo-1H-indazol-3-yl)amino]-4-oxo-2-butenoic acid, Z form, are obtained in the form of a yellow solid melting at 172° C.

reactant | maleic anhydride | 350 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 5-bromo-1H-indazole-3-amine | 500 mg | BrC=1C=C2C(=NNC2=CC1)N | C7H6BrN3
solvent | toluene | 20 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-[(5-bromo-1H-indazol-3-yl)amino]-4-oxo-2-butenoic acid | BrC=1C=C2C(=NNC2=CC1)NC(C=CC(=O)O)=O | C11H8BrN3O3
